US06248754B1
N-(8-Ethyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
N-(8-Bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.525 g), lithium chloride (0.127 g), tetraethyltin (0.47 g) and bis(triphenylphosphine)palladium(II)chloride (0.04 g) were combined in dimethylformamide (10 ml) and the mixture stirred under argon at 120° C. for 20 h. Solvent as removed at reduced pressure, the residue dissolved in dichloromethane and filtered through Celite. Solvent was removed at reduced pressure and the residue column chromatographed (silica gel, ethyl acetate/hexane mixtures) to give the title compound (0.18 g) as an oil.

reactant | N-(8-Bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.525 g | BrC=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C20H15BrF6N2O3
reactant | lithium chloride | 0.127 g | [Cl-].[Li+]
reactant | tetraethyltin | 0.47 g | C(C)[Sn](CC)(CC)CC
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.04 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | N-(8-Ethyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.18 g | C(C)C=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C22H20F6N2O3
